US06348459B1
Preparation of N-[[(5S)-3-[3-fluoro-4-(tetrahydro-2-methyl-1,1-dioxido-2H-1,2-thiazin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
N-[[(5S)-3-[3-fluoro-4-(tetrahydro-1,1-dioxido-2H-1,2-thiazin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (200 mg, 0.52 mmol), powdered potassium carbonate (85 mg, 0.62 mmol) and methyl iodide (88 mg, 0.62 mmol) were stirred under nitrogen in dry DMF (1 mL) for 24 hours. After evaporation of the solvent, the residue is partitioned between chloroform (65 mL) and water (15 mL). The chloroform is dried (MgSO4), filtered and evaporated. The residue is chromatographed over silica gel, eluting with 2-6% methanol-chloroform. The product is obtained as a white foam (156 mg, 75%). HRMS (FAB) calc'd for M+H=400.1342; Found: 400.1343.

reactant | N-[[(5S)-3-[3-fluoro-4-(tetrahydro-1,1-dioxido-2H-1,2-thiazin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.52 mmol, 200 mg | FC=1C=C(C=CC1C1CNS(CC1)(=O)=O)N1C(O[C@H](C1)CNC(C)=O)=O | C16H20FN3O5S
reactant | potassium carbonate | 0.62 mmol, 85 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.62 mmol, 88 mg | CI | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[[(5S)-3-[3-fluoro-4-(tetrahydro-2-methyl-1,1-dioxido-2H-1,2-thiazin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 156 mg, 75% | FC=1C=C(C=CC1C1CN(S(CC1)(=O)=O)C)N1C(O[C@H](C1)CNC(C)=O)=O | C17H22FN3O5S
